US08278482B2
N1,N1-Dibutyl-3-methylbutane-1,3-diamine
3-Azido-N,N-dibutyl-3-methylbutanamide (16.0 g, 61.8 mmol) was dissolved into anhdrous THF (100 mL, 0.2 M) and added dropwise to a suspension of LAH (4.60 g, 2.0 equiv, 0.124 mol) in anhydrous THF (150 mL) over 25 min. After complete addition, the flask was fitted with a condenser and the reaction heated in a 70° C. oil bath for 8 h. The reaction mixture was removed from the bath and stirred at room temperature for 17 h. The reaction mixture was cooled in an ice bath and water (4.6 mL) was added dropwise over 20 min. Then 15% NaOH solution (4.6 mL) was added dropwise over 10 min. The suspension was stirred for a further 10 min and water (9.0 mL) was added in one portion and the mixture stirred for 30 min to give a fine white suspension. The suspension was filtered through a pad of Celite® and the white cake was washed with isopropanol (3×150 mL) and the combined filtrate was concentrated on a rotovap and briefly dried under high vacuum give a pale yellow liquid (10.2 g, 76.9%). The crude product was used without further purification. LRMS (ESI+) for C13H30N2 (214.2); Found: 215 (MH+).

reactant | 3-Azido-N,N-dibutyl-3-methylbutanamide | 61.8 mmol, 16.0 g | N(=[N+]=[N-])C(CC(=O)N(CCCC)CCCC)(C)C | C13H26N4O
reactant | LAH | 0.124 mol, 4.60 g, 2.0 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 0.2 M, 100 mL | C1CCOC1 | C4H8O
product | N1,N1-Dibutyl-3-methylbutane-1,3-diamine | 10.2 g, 76.9% | C(CCC)N(CCC(C)(N)C)CCCC | C13H30N2
